plaintext
* SPICE Netlist
* Current Sources
I2 5 7 DC
I1 7 9 DC
? Missing component
I4 7 1 DC
* BJTs
Q1 9 2 8 QMODEL
Q2 5 1 3 QMODEL
Q3 2 4 6 QMODEL
Q4 1 3 8 QMODEL
* Model Definitions
.model QMODEL NPN
